US07476399B2
N-(1-Ethyl-propyl)-3-(4-hydroxy-phenyl)-acrylamide was prepared in a similar manner as described in example 4 from 4-hydroxy-cinnamic acid and 3-pentylamine. MS (M+H, 234.10).

reactant | 4-hydroxy-cinnamic acid | OC1=CC=C(C=CC(=O)O)C=C1 | C9H8O3
reactant | 3-pentylamine | CCC(CC)N | C5H13N
product | N-(1-Ethyl-propyl)-3-(4-hydroxy-phenyl)-acrylamide | C(C)C(CC)NC(C=CC1=CC=C(C=C1)O)=O | C14H19NO2
